US04003914
10.4 g of 2-(3-chloropropyl)-2-(3,4-dimethoxyphenyl)-m-dithiane-1,1,3,3-tetraoxide are treated with 5.11 g of N-methyl-homoveratrylamine, 30 ml of N-ethyl-N,N-diisopropylamine and 70 ml of dimethylformamide. The solution is heated at 120° C for 6 hours. After evaporation, the residue is worked-up in a manner analogous to that described in Example 5. There is obtained N-(3,4-dimethoxyphenethyl)-2-(3,4-dimethoxyphenyl(-N-methyl-m-dithiane-2-propylamine-1,1,3,3-tetraoxide hydrochloride of melting point 167°-169° C.

reactant | 2-(3-chloropropyl)-2-(3,4-dimethoxyphenyl)-m-dithiane-1,1,3,3-tetraoxide | 10.4 g | ClCCCC1(S(CCCS1(=O)=O)(=O)=O)C1=CC(=C(C=C1)OC)OC | C15H21ClO6S2
reactant | N-methyl-homoveratrylamine | 5.11 g | CNCCC1=CC(OC)=C(OC)C=C1 | C11H17NO2
reactant | N-ethyl-N,N-diisopropylamine | 30 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | N-methyl-m-dithiane-2-propylamine-1,1,3,3-tetraoxide hydrochloride | Cl.CNCCCC1S(CCCS1(=O)=O)(=O)=O | InChI=1S/C8H17NO4S2.ClH/c1-9-5-2-4-8-14(10,11)6-3-7-15(8,12)13;/h8-9H,2-7H2,1H3;1H
